US09399646B2
Step 2: 3-(4-Iodophenyl)isoxazol-5(4H)-one
Ethyl 3-(4-iodophenyl)-3-oxopropanoate (3.0 g, 9.4 mmol) was added slowly to a solution of hydroxylamine hydrochloride (660 mg, 9.44 mmol), NaOH (795 mg, 19.8 mmol), and water (12 mL) at 0° C. The reaction mixture was kept at 0° C. for 1 h. The precipitate was collected by filtration, rinsed with water, and dried under vacuum to afford the title compound as white solid (2.0 g, 64%). 1H NMR (CDCl3, 400 MHz): δ 7.84 (d, 2H), 7.40 (d, 2H), 3.78 (s, 2H). 13C NMR (acetone-d6, 100 MHz): δ 176.1, 164.6, 139.1, 129.2, 129.0, 98.6, 34.4.

reactant | Ethyl 3-(4-iodophenyl)-3-oxopropanoate | 9.4 mmol, 3.0 g | IC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11IO3
reactant | hydroxylamine hydrochloride | 9.44 mmol, 660 mg | Cl.NO
reactant | NaOH | 19.8 mmol, 795 mg | [OH-].[Na+]
solvent | water | 12 mL | O | H2O
product | 3-(4-Iodophenyl)isoxazol-5(4H)-one | 2.0 g, 64% | IC1=CC=C(C=C1)C1=NOC(C1)=O | C9H6INO2
